US09062048B2
Step A: 2-(1,4-Dioxa-spiro[4.5]dec-7-en-8-yl)-pyridin-3-ol
8-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,4-dioxa-spiro[4.5]dec-7-ene (prepared as described in PCT Int. Appl. WO2006064189, 0.292 g, 1.10 mmol), 2-iodo-3-hydroxypyridine (Aldrich, 0.177 g, 0.801 mmol), and tetrakis (triphenylphosphino)palladium(0) (Aldrich, 0.048 g, 0.042 mmol) were dissolved in 1,4-dioxane (9 mL), treated with 2M aqueous Na2CO3 (2.0 mL, 4.0 mmol), bubbled with argon for a few minutes, and heated to 100° C. under reflux condenser for 24 h. After cooling to ambient temperature, the reaction was diluted with water (30 mL), extracted thrice with dichloromethane, aqueous layer acidified to ca. pH 7, extracted twice more with dichloromethane, and the combined organic layers washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give an orange oil. This was purified by thin layer chromatography on silica gel (EtOAc) to give the title compound as a yellow solid.

reactant | 8-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,4-dioxa-spiro[4.5]dec-7-ene | 1.10 mmol, 0.292 g | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
reactant | 2-iodo-3-hydroxypyridine | 0.801 mmol, 0.177 g | IC1=NC=CC=C1O | C5H4INO
reactant | Na2CO3 | 4.0 mmol, 2M, 2.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis (triphenylphosphino)palladium(0) | 0.042 mmol, 0.048 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(1,4-Dioxa-spiro[4.5]dec-7-en-8-yl)-pyridin-3-ol | O1CCOC12CC=C(CC2)C2=NC=CC=C2O | C13H15NO3
